US04017504
B. p-Bromophenacyl 6-hydroxycaproate
A mixture of 8.5 g. (50 mmoles) of potassium 6-hydroxycaproate, 13.9 g. (50 mmoles) of p-bromophenacyl bromide, 0.75 g. (2 mmoles) of dicyclohexyl-18 -crown-6 in 500 ml. of acetonitrile is refluxed with stirring for 1 hour and stirred at room temperature overnight. The mixture is filtered and the filtrate evaporated to dryness in vacuo. The residual solid is recrystallized from benzene-hexane mixture affording 14.1 g. of p-bromophenacyl 6-hydroxycarproate, m.p. 79°-81° C.

reactant | potassium 6-hydroxycaproate | 50 mmoles | OCCCCCC(=O)[O-].[K+]
reactant | p-bromophenacyl bromide | 50 mmoles | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | dicyclohexyl-18 -crown-6 | 2 mmoles | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | acetonitrile | C(C)#N | C2H3N
product | p-Bromophenacyl 6-hydroxycaproate | OCCCCCC(=O)OCC(=O)C1=CC=C(C=C1)Br | C14H17BrO4
